US07163954B2
A mixture of {1-bromo-6-[3-(3,3-dimethyl-butyryl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid ethyl ester (0.360 g, 0.667 mmol) and potassium hydroxide (0.125 g, 2.23 mmol) in THF (5 mL) and water (5 mL) was stirred at ambient temperature for four hours. It was then poured in excess water and acidified with 2N hydrochloric acid. This was then extracted with ethyl acetate and washed with water and brine. The organic phase was dried with anhydrous magnesium sulfate, filtered, solvent evaporated dried in vacuo at 78° C. for 12 hours to yield {1-bromo-6-[3-(3,3-dimethyl-butyryl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid as a light yellow solid (0.233 g, 68.3%): MP: 206–7° C.; mass spectrum (+EI, [M+H]+) m/z 511/513. 1H NMR (500 MHz, DMSO-d6): δ12.9–13.4 (br, 1H), 8.24 (d, 1H, J=9.01 Hz), 8.11–8.13(m, 2H), 8.07–8.09 (m, 1H), 7.74 (dd, 1H, J=8.78 Hz and 1.76 Hz), 7.46–7.51 (m, 3H), 5.02 (s, 2H), 2.33 (s, 2H), 0.76 ppm (s, 9H). Elemental Analysis for C26H23BrNO4S: Calcd: C, 61.06; H, 4.53; N, 0.00; Found: C, 61.17; H,4.64; N, 0.00.

reactant | {1-bromo-6-[3-(3,3-dimethyl-butyryl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid ethyl ester | 0.667 mmol, 0.360 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=C(C2=C(S1)C=CC=C2)C(CC(C)(C)C)=O)Br)=O | C28H27BrO4S
reactant | potassium hydroxide | 2.23 mmol, 0.125 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | {1-bromo-6-[3-(3,3-dimethyl-butyryl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetic acid | 0.233 g, 68.3% | BrC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CC(C)(C)C)=O)OCC(=O)O | C26H23BrO4S
